US06350898B1
Diallyl Malonate
In an autoclave, 7.65 g (0.1 mol) of allyl chloride were added to a solution of 2.96 g (20 mmol) of disodium malonate and 0.64 g (2 mmol) of tetrabutylammonium bromide in 5 ml of water and 10 ml of chlorobenzene. The mixture was heated to 100° C. over a period of 30 minutes, with the pressure in the autoclave rising to 2.5 bar. After a reaction time of 3½ hours at 100° C., the mixture was cooled to room temperature and depressurized. The aqueous phase was extracted with tert-butyl methyl ether (2×5 ml). The combined organic phases were dried over sodium sulfate and analyzed by gas chromatography (internal standard: dimethyl succinate). The product yield was 16 percent.

reactant | allyl chloride | 0.1 mol, 7.65 g | C(C=C)Cl | C3H5Cl
reactant | disodium malonate | 20 mmol, 2.96 g | C(CC(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | chlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | tetrabutylammonium bromide | 2 mmol, 0.64 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5 ml | O | H2O
product | Diallyl Malonate | yield was 16 percent | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
